US09085534B2
3-[(1-benzofuran-2-ylmethyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 3% yield from (1-benzofuran-2-ylmethyl)amine hydrochloride and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 5. 1H NMR (400 MHz, DMSO-d6): δ 13.44 (br s, 1H), 8.39 (s, 1H), 7.97 (br s, 1H), 7.87 (d, 1H, J=5.0 Hz), 7.52-7.60 (m, 3H), 7.19-7.29 (m, 2H), 6.81 (s, 1H), 4.79 (s, 2H). [M+H] calc'd for C15H12N2O3, 269; found 269.

reactant | (1-benzofuran-2-ylmethyl)amine hydrochloride | Cl.O1C(=CC2=C1C=CC=C2)CN
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(1-benzofuran-2-ylmethyl)amino]pyridine-4-carboxylic acid | 3% yield | O1C(=CC2=C1C=CC=C2)CNC=2C=NC=CC2C(=O)O | C15H12N2O3
